USRE029101
80 parts by weight of a pitch and 20 parts by weight of methylnaphthalene were thermally mixed with each other by the use of a small-scale test spinning machine. The pitch used was a residue obtained by reduced pressure distillation of a botton oil which was produced in the production of ethylene, and had a softening point of 180° C, a carbon content of 92 wt%, a hydrogen/carbon ratio of 0.84 and a nitrobenzene-insoluble fraction of 2 wt%. The mixture was spinned out together with an air flow through a nozzle having a diameter of 0.5 mm at a nozzle temperature of 130° C to form a filament. The filament was immersed in naphtha to remove therefrom methylnaphthalene to obtain a fibrous material composed substantially of the pitch. The fibrous material which was dried contained methylnaphthalene only in an amount less than 1 %. The fibrous pitch material was heated by means of heating air up to 300° C at a heating rate of 25° C/hr, and maintained at 300° C for 1 hour to obtain an infusible fibrous pitch mat. Then, the resultant fibre, was thermally treated in an atmosphere of nitrogen up to 1000° C at a heating rate of 300° C/hr and maintained at 1000° C for 1 hour to obtain a porous fibrous carbon material.

reactant | hydrogen carbon | [H][H].[C]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | methylnaphthalene | CC1=CC=CC2=CC=CC=C12 | C11H10
